US07985740B2
(2R,3R,4R,5R)-2-(2-Chloro-6-{[trans-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)cyclohexyl]amino}-9H-purin-9-yl)-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydrofuran-3,4-diyl diacetate
To stirred (2R,3R,4R,5R)-2-(2,6-dichloro-9H-purin-9-yl)-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydrofuran-3,4-diyl diacetate (ref WO98/28319A1) (15 g) in propan-2-ol (100 ml) was added N,N-diisopropylethylamine (7.7 ml) and 1,1-dimethylethyl(trans-4-aminocyclohexyl)carbamate (6.82 g). The mixture was stirred at 65° C. for 24 h before cooling to room temperature and concentrating in vacuo. The crude product was purified by column chromatography (silica) eluting with 30% cyclohexane in ethyl acetate. The appropriate fractions were combined and concentrated in vacuo and triturated with diethyl ether to yield the title compound as a white solid, 8.56 g.

reactant | (2R,3R,4R,5R)-2-(2,6-dichloro-9H-purin-9-yl)-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydrofuran-3,4-diyl diacetate | 15 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C=1N=NN(N1)CC)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C16H16Cl2N8O5
reactant | N,N-diisopropylethylamine | 7.7 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1,1-dimethylethyl(trans-4-aminocyclohexyl)carbamate | 6.82 g | CC(C)(C)N(C([O-])=O)[C@@H]1CC[C@H](CC1)N
reactant | propan-2-ol | 100 ml | CC(C)O | C3H8O
product | (2R,3R,4R,5R)-2-(2-Chloro-6-{[trans-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)cyclohexyl]amino}-9H-purin-9-yl)-5-(2-ethyl-2H-tetrazol-5-yl)tetrahydrofuran-3,4-diyl diacetate | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C=1N=NN(N1)CC)N1C2=NC(=NC(=C2N=C1)N[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C)Cl | C27H37ClN10O7
